*********************************************************************************
*										*
*	    ,o888888o.    888888888888.   88888888888888 88888888888888		*
*	   8888     `88.  888888    `88.  888888         888888         	*
*	,888888       `8. 888888     `88  888888         888888         	*
*	8888888           888888     ,88  888888         888888         	*
*	8888888           888888.   ,88'  88888888888888 88888888888888 	*
*	8888888           888888888888'   888888         888888         	*
*	8888888           888888`8b       888888         888888         	*
*	`888888       .8' 888888 `8b.     888888         888888         	*
*	   8888     ,88'  888888   `8b.   888888         888888         	*
*	    `8888888P'    888888     `88. 88888888888888 88888888888888		*
*										*
*********************************************************************************

***********************************************************
****	Cree SiC MOSFET C2M0025120D Spice Library Beta Version
***********************************************************
****NO Parasitics Included
****Tj = Junction Temperature
****Tc = Case Temperature
***********************************************************

.subckt C2M0025120D d g s Tj Tc
.param af1=1
xgmos	d1 g1 s1 Tj Tc gmos params: af=af1

Ls 		s	s1	1f
R_Ls 		s	s1      10
Rg 		g1	g2	{1.1/af1}
Lg 		g	g3	1f
R_Lg		g	g3	10
Ld 		d	d3      1f
R_Ld		d	d3	10
B1		d2	d1      I=(V(d2,d1))/((0.0000007714*((V(Tj))**2)+0.0000978571*(V(Tj))+0.0231428571)+1n)
R_A		d2	d1	1E12
Vgate_s		g3	g2	0
Vdrain_s	d3	d2	0
Gheat		0	Tj	value = {abs((V(d,s)*I(Vdrain_s)))+abs((V(g1,g2)*I(Vgate_s)))}
XCGD		d1	g1	cgdmos params: af=af1
CGS		g1	s1	{2825.325p*af1}
CDS		d2	s1	{70p*af1}
D1		s1	d2	bodydiode
D2		s1	d2	bodydiode
D3		s1	d2	bodydiode
R0 N1 Tj 4.4m
R1 N2 N1 4.4m
R2 N3 N2 19.1m
R3 N4 N3 19.7m
R4 N5 N4 28.8m
R5 N6 N5 25.2m
R6 N7 N6 17.5m
R7 N8 N7 18.2m
R8 N9 N8 25.9m
R9 N10 N9 34.5m
R10 N11 N10 26.9m
R11 N12 N11 10m
R12 N13 N12 2.88m
R13 Tc N13 0.183m
C0 Tj Tc 1.32m
C1 N1 Tc 1.1m
C2 N2 Tc 5.02m
C3 N3 Tc 8.95m
C4 N4 Tc 8.04m
C5 N5 Tc 10m
C6 N6 Tc 21.9m
C7 N7 Tc 47.3m
C8 N8 Tc 65.1m
C9 N9 Tc 68.9m
C10 N10 Tc 88.9m
C11 N11 Tc 0.291
C12 N12 Tc 5.78
C13 N13 Tc 1.29k

.ends C2M0025120D 
*****************************************

.subckt gmos d1 g2 s1 Tj Tc

.param Adj = 0.55
B2		NET1	0	V=(-0.0237528571*(V(Tj))+26.30875)
R_B		NET1	0 	1E12
B3		NET2	0	V=((0.0000290194*((V(Tj))**2)-0.0144927440*(V(Tj))+6.6778449647)*Adj)
R_C		NET2	0 	1E12
.param p3  = 13
.param p4  = 0.0257											
.param p5  = 2.2
.param p6  = 2.0
.param p7  = 0.5
.param p8  = 0.001
.param p9  = {2*p3*p4}
.param p10 = {p9*p4}
.param p11 = -10
.param p12 = 25

R100 g1 s1	1e9
E100 g1 s1 	value = {limit(V(g2,s1),p11,p12)} 
G1 d1 s1 value =	{
+	if(V(d1,s1)<0,
+		-p10*V(NET1,0)*((ln(1+exp((v(g1,s1)-V(NET2,0))/p9)))**p5)
+		*(1+p8*v(s1,d1))
+		,
+		p10*V(NET1,0)*((ln(1+exp((v(g1,s1)-V(NET2,0))/p9)))**p5)
+		*(1+p8*v(d1,s1))
+		)
+			}
G2 d1 s1 value =	{
+	if(V(d1,s1)<0,
+		p10*V(NET1,0)*((ln(1+exp((v(g1,s1)-V(NET2,0)-p6*(v(s1,d1))**p7)/p9)))**p5)
+		*(1+p8*v(s1,d1))
+		,
+		-p10*V(NET1,0)*((ln(1+exp((v(g1,s1)-V(NET2,0)-p6*(v(d1,s1))**p7)/p9)))**p5)
+		*(1+p8*v(d1,s1))
+		)
+			}

.ends gmos
****************************************

.model bodydiode d(is=1.2e-12 cjo=842.1649p bv=1600 m=0.58729 EG=3.26 vj=3.82 n=3.9 
+	rs=0.02  trs1=-0.0047035655  trs2=0.0000227057 Tnom=25
+	tt=15n ibv=500u Xti=12 level=1)
****************************************

.subckt cgdmos d2 g
.param k1=1702.69p
.param k2=0.545
.param ka=18.096
.param kb=0.2678
.param kc=7.5277
G11 g d1 value = 	{
+		af*k1*(
+		(1+(limit(v(d1,g),0,500))*(1+ka*(1+TANH(kb*V(d1,g)-kc))/2))**-k2
+		)*ddt(v(g,d1))
+			}
R_CGD d1 d2 1e-3
C_CGD g d1 {1p*af}
.ends cgdmos
***************************************
                               