*********************************************************************************
*										*
*	    ,o888888o.    888888888888.   88888888888888 88888888888888		*
*	   8888     `88.  888888    `88.  888888         888888         	*
*	,888888       `8. 888888     `88  888888         888888         	*
*	8888888           888888     ,88  888888         888888         	*
*	8888888           888888.   ,88'  88888888888888 88888888888888 	*
*	8888888           888888888888'   888888         888888         	*
*	8888888           888888`8b       888888         888888         	*
*	`888888       .8' 888888 `8b.     888888         888888         	*
*	   8888     ,88'  888888   `8b.   888888         888888         	*
*	    `8888888P'    888888     `88. 88888888888888 88888888888888		*
*										*
*********************************************************************************

***********************************************************
****	Cree SiC MOSFET C2M0080120D Spice Library Beta Version
***********************************************************
****NO Parasitics Included
****Tj = Junction Temperature
****Tc = Case Temperature
***********************************************************

.subckt C2M0080120D d g s Tj Tc
.param af1=1
xgmos	d1 g1 s1 Tj Tc gmos params: af=af1

Ls 		s	s1	1f
R_Ls 		s	s1      10
Rg 		g1	g2	{4.6/af1}
Lg 		g	g3	1f
R_Lg		g	g3	10
Ld 		d	d3      1f
R_Ld		d	d3	10
B1		d2	d1      I=(V(d2,d1))/((0.0000020762*((V(Tj))**2)+0.0001376190*(V(Tj))+0.0604285714)+1n)
R_A		d2	d1	1E12
Vgate_s		g3	g2	0
Vdrain_s	d3	d2	0
Gheat		0	Tj	value = {abs((V(d,s)*I(Vdrain_s)))+abs((V(g1,g2)*I(Vgate_s)))}
XCGD		d1	g1	cgdmos params: af=af1
CGS		g1	s1	{950p*af1}
CDS		d2	s1	{45p*af1}
D1		s1	d2	bodydiode
D2		s1	d2	bodydiode
R0 N1 Tj 13.3m
R1 N2 N1 13.3m
R2 N3 N2 37.8m
R3 N4 N3 36.9m
R4 N5 N4 83.6m
R5 N6 N5 58.4m
R6 N7 N6 43.2m
R7 N8 N7 51.2m
R8 N9 N8 51.9m
R9 N10 N9 47.5m
R10 N11 N10 46.6m
R11 N12 N11 58.7m
R12 N13 N12 40.8m
R13 Tc N13 10.4m
C0 Tj Tc 0.424m
C1 N1 Tc 0.341m
C2 N2 Tc 1.32m
C3 N3 Tc 1.58m
C4 N4 Tc 1.88m
C5 N5 Tc 2.64m
C6 N6 Tc 8.5m
C7 N7 Tc 14.2m
C8 N8 Tc 26m
C9 N9 Tc 47.8m
C10 N10 Tc 0.102
C11 N11 Tc 0.165
C12 N12 Tc 0.282
C13 N13 Tc 2.41

.ends C2M0080120D 
*****************************************

.subckt gmos d1 g2 s1 Tj Tc

.param Adj = 0.48
B2		NET1	0	V=(-0.0084933063*(V(Tj))+8.9090149970)
R_B		NET1	0 	1E12
B3		NET2	0	V=((0.0000345182*((V(Tj))**2)-0.0186872387*(V(Tj))+7.0614136171)*Adj)
R_C		NET2	0 	1E12
.param p3  = 7.5
.param p4  = 0.0257											
.param p5  = 2.05
.param p6  = 2.0
.param p7  = 0.5
.param p8  = 0.001
.param p9  = {2*p3*p4}
.param p10 = {p9*p4}
.param p11 = -10
.param p12 = 25

R100 g1 s1	1e9
E100 g1 s1 	value = {limit(V(g2,s1),p11,p12)} 
G1 d1 s1 value =	{
+	if(V(d1,s1)<0,
+		-p10*V(NET1,0)*((ln(1+exp((v(g1,s1)-V(NET2,0))/p9)))**p5)
+		*(1+p8*v(s1,d1))
+		,
+		p10*V(NET1,0)*((ln(1+exp((v(g1,s1)-V(NET2,0))/p9)))**p5)
+		*(1+p8*v(d1,s1))
+		)
+			}
G2 d1 s1 value =	{
+	if(V(d1,s1)<0,
+		p10*V(NET1,0)*((ln(1+exp((v(g1,s1)-V(NET2,0)-p6*(v(s1,d1))**p7)/p9)))**p5)
+		*(1+p8*v(s1,d1))
+		,
+		-p10*V(NET1,0)*((ln(1+exp((v(g1,s1)-V(NET2,0)-p6*(v(d1,s1))**p7)/p9)))**p5)
+		*(1+p8*v(d1,s1))
+		)
+			}

.ends gmos
****************************************

.model bodydiode d(is=1e-11 cjo=463p bv=1600 m=0.676 EG=3.26 vj=3.82 n=4.3 
+	rs=0.035  trs1=-0.004628574  trs2=0.00002057144 Tnom=25
+	tt=15n ibv=500u Xti=15 level=1)
****************************************

.subckt cgdmos d2 g
.param k1=620.8p
.param k2=0.525
.param ka=18.096
.param kb=0.2678
.param kc=7.5277
G11 g d1 value = 	{
+		af*k1*(
+		(1+(limit(v(d1,g),0,500))*(1+ka*(1+TANH(kb*V(d1,g)-kc))/2))**-k2
+		)*ddt(v(g,d1))
+			}
R_CGD d1 d2 1e-3
C_CGD g d1 {1p*af}
.ends cgdmos
***************************************
                               